US08431695B2
Step 2: Preparation of tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydropyridine-1(2H)-carboxylate,
To a cooled (0° C.) solution of tert-butyl 3-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3-hydroxypiperidine-1-carboxylate (2.77 g, 8.31 mmol) in pyridine (55 mL) was added trifluoroacetic anhydride (2.35 mL, 14.1 mmol), dropwise. The ice bath was removed and the mixture was stirred at rt for 17 h. The mixture was concentrated to dryness. The crude solid was triturated with 3:1 EtOAc/hexanes then with MeOH to afford 2.09 g (76%) of the desired product. ES-MS m/z 316.04 [M+H]+, HPLC RT (min) 2.50.

reactant | tert-butyl 3-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3-hydroxypiperidine-1-carboxylate | 8.31 mmol, 2.77 g | NC1=NC=NN2C1=CC=C2C2(CN(CCC2)C(=O)OC(C)(C)C)O | C16H23N5O3
reactant | trifluoroacetic anhydride | 14.1 mmol, 2.35 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 55 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 5-(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)-3,4-dihydropyridine-1(2H)-carboxylate | 2.09 g, 76% | NC1=NC=NN2C1=CC=C2C=2CCCN(C2)C(=O)OC(C)(C)C | C16H21N5O2
